US08084484B2
g) N-(4-tert-butylbenzyl)-2-(1H-benzo[d][1,2,3]triazol-5-yl)propanamide
N-(4-tert-Butyl-benzyl)-2-(3,4-diamino-phenyl)-propionamide (110 mg, 0.338 mmol) in 5% aq. acetic acid (3 mL) and DMF (2.5 mL) was added sodium nitrite (30 mg, 0.435 mmol) at 0° C. The reaction mixture was stirred for 14 hours at room temperature. The mixture was added water (20 mL) and extracted with methylene chloride. The organic layer was dried with MgSO4 and filtered. Methylene chloride was removed by evaporation. The residue was purified by column chromatography eluting with CH2Cl2/MeOH=10/1.

reactant | N-(4-tert-Butyl-benzyl)-2-(3,4-diamino-phenyl)-propionamide | 0.338 mmol, 110 mg | C(C)(C)(C)C1=CC=C(CNC(C(C)C2=CC(=C(C=C2)N)N)=O)C=C1 | C20H27N3O
reactant | sodium nitrite | 0.435 mmol, 30 mg | N(=O)[O-].[Na+]
reactant | water | 20 mL | O | H2O
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | N-(4-tert-butylbenzyl)-2-(1H-benzo[d][1,2,3]triazol-5-yl)propanamide | C(C)(C)(C)C1=CC=C(CNC(C(C)C2=CC3=C(NN=N3)C=C2)=O)C=C1 | C20H24N4O
